US08258130B2
A solution of pyrrolo[2,3-c]pyridine (8.47 mmol) and potassium tert-butoxide (16.9 mmol) in DMF (38 mL) is stirred at rt under N2 for 2 h. 0.15 M NH2Cl in ether (84.6 mL) is added drop-wise at rt, and the reaction mixture is stirring at rt for 2 h., quenched with 5% Na2S2O3 aqueous solution (10 mL), and extracted with ether. The organic layer is separated, washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 0-10% MeOH in DCM to afford pyrrolo [2,3-c]pyridin-1-ylamine (226 mg, 11%) as a solid. MS: 134 (M+H); 1H NMR (300 MHz, CDCl3): δ 4.96 (br, 2N—H), 6.43 (d, H), 7.29 (m, H), 7.50 (d, H), 8.29 (d, H), 8.89 (s, H).

reactant | pyrrolo[2,3-c]pyridine | 8.47 mmol | N1C=CC=2C1=CN=CC2 | C7H6N2
reactant | potassium tert-butoxide | 16.9 mmol | CC(C)([O-])C.[K+]
reactant | NH2Cl | 0.15 M | NCl | ClH2N
solvent | DMF | 38 mL | CN(C)C=O | C3H7NO
solvent | ether | 84.6 mL | CCOCC | C4H10O
product | pyrrolo [2,3-c]pyridin-1-ylamine | 226 mg, 11% | N1(C=CC=2C1=CN=CC2)N | C7H7N3
